Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C-:1]([O+:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])[H:10].[C:6](#[N:7])[H:9]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],2.662016192519907
[C:1]([O:3][C:2]([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5]#[C:6][H:14])([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],39.39969582507379
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[C:3](=[N:4][H:15])([H:13])[H:14],95.4434509331851
[C:1]1([H:7])=[C:3]([C:4]([H:8])([H:11])[H:12])[C:2]1([H:9])[H:10].[C:5](=[O:6])([H:13])[H:14]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,85.3045590006312
[C:1](=[N:2][C:3](=[N+:4]([H:11])[H:12])[C@:5]([O-:6])([N:7]([H:13])[H:14])[H:9])([H:8])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],9.30935003691959
[C-:5]#[O+:6].[C:1]([C:2]([N:3]=[C:4]([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:15]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],33.87555703597881
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8]>>[C:1](=[C:2]=[C:3]1[C:4]([H:9])=[C:5]=[C:6]([H:11])[O:7]1)([H:8])[H:10],138.962151548171
[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C@@:3]([H:11])([C-:4]=[O+:6][C:7]1([H:13])[H:14])[N:5]2[H:12])([H:8])([H:9])[H:10],106.355458393206
[C:3](=[C:4]([C:5]#[C:6][H:12])[H:11])([H:9])[H:10].[O:1]([C:2][H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],4.168434286343903
[C@:1]1([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])[C:2][C:3]1([H:8])[H:9]>>[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],31.022815503508298
[C:1]([C:2]1([H:9])[C:3]([H:10])=[C:4]1[H:11])([C:6](=[O:5])[H:12])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12],33.8131541890706
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:4]1([O:6][C:7]([H:14])([H:15])[H:16])[C:3]([H:12])([H:13])[O:5]1)[H:11])([H:8])([H:9])[H:10],84.49175119442329
[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4](=[C:5])[H:9])([H:6])([H:7])[H:8],41.879544902578296
[C:1](#[C:2][H:5])[C:4](=[C:3])[H:6]>>[C:1](#[C:2][H:5])[C:3]#[C:4][H:6],0.4223868600982783
[C:1]([C-:2]=[C:3]([C+:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],22.34628882726001
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]#[C:2][C-:3]([C:4][O:5][H:8])[N+:7]#[N:6],67.3544704206647
[C:1]([C@:2]1([C:5](=[O:6])[H:12])[O:3][C:4]1([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],68.6843513692215
[C:1]([C:2]([O+:3]=[C-:4][C:5]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:12])([H:16])([H:17])[H:18]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],18.854201261289
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:13])[H:14])[C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:8])([H:9])[H:10].[H:11][H:12],106.321552548977
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C:3](=[C:4]=[O:5])[C:6]1=[C:7]2[H:11])([H:8])([H:9])[H:10],70.3402204005035
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8]>>[C:1](#[C:2][C:3](=[C:4]=[C:5]([C:6](=[O:7])[H:11])[H:10])[H:9])[H:8],76.5968814697698
[H:7][H:9].[N:1](=[C:2](/[C:3]([O:4][H:12])([H:10])[H:11])[C:5]#[N:6])\[H:8]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],80.8565726934617
[C:1]([C:2](/[C:3](=[C:4](/[C:5](=[O:6])[H:16])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:15]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],66.9190412756077
[C:1](/[C:2](=[C:3](/[C:5]#[N:6])[H:12])[H:11])([H:7])([H:8])[H:9].[N:4]([H:10])([H:13])[H:14]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],56.19073391086021
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C:6]([H:11])([H:12])[C:5]([H:10])=[C:7]1[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13],73.8475132399292
